US04036633
84 g of diketene were added over 30 minutes to a mixture of 200 g of m-benzyloxy-aniline [Morton, J. Biol. Chem., (1949), p. 259] in 1 liter of benzene cooled to 10°C. and after stirring the mixture for 6 hours, the benzene was distilled off under reduced pressure. The residue was added to isopropyl ether and the mixture was vacuum filtered. The recovered precipitate was washed with isopropyl ether and dried to obtain 240 g of m-benzyloxy-acetylacetanilide melting at 80°C.

reactant | diketene | 84 g | C=C1CC(=O)O1 | C4H4O2
reactant | m-benzyloxy-aniline | 200 g | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1 | C13H13NO
solvent | benzene | 1 liter | C1=CC=CC=C1 | C6H6
product | m-benzyloxy-acetylacetanilide | 240 g | C(C1=CC=CC=C1)OC=1C=C(NC(CC(C)=O)=O)C=CC1 | C17H17NO3
